US04460579
A mixture of crude chloro(4-phenylbutyl)phosphinic acid, ethyl ester, dry methylene chloride and 5-amino-tetrahydro-4-oxo-1,3-thiazepine-3(2H)-acetic acid, ethyl ester are reacted as set forth in Example 1(f). Work up of the reaction mixture according to Example 1(f) yields 5-[[ethoxy(4-phenylbutyl)phosphinyl]amino]tetrahydro-4-oxo-1,3-thiazepine-3(2H)-acetic acid, ethyl ester.

reactant | chloro(4-phenylbutyl)phosphinic acid, ethyl ester | ClP(OCC)(=O)CCCCC1=CC=CC=C1 | C12H18ClO2P
reactant | 5-amino-tetrahydro-4-oxo-1,3-thiazepine-3(2H)-acetic acid, ethyl ester | NC1C(N(CSCC1)CC(=O)OCC)=O | C9H16N2O3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-[[ethoxy(4-phenylbutyl)phosphinyl]amino]tetrahydro-4-oxo-1,3-thiazepine-3(2H)-acetic acid, ethyl ester | C(C)OP(=O)(CCCCC1=CC=CC=C1)NC1C(N(CSCC1)CC(=O)OCC)=O | C21H33N2O5PS
